US04927838
As in Example 132, 1-butyl-4-hydroxy-7-methoxy-2-naphthalenecarboxylic acid ethyl ester (2.9 g) was reacted with 5-chloro-1-phenyl-1H-tetrazole (1.87 g) in dimethylformamide (25 mL) in the presence of potassium t-butoxide (1.25 g). After 0.5 hours at room temperature, the reaction was worked up in the described manner and the crude product was crystallized from diethyl ether-hexane to afford 2.9 g of 1-butyl-7-methoxy-4-[(1-phenyl-1H-tetrazole-5-yl)oxy]-2-naphthalenecarboxylic acid ethyl ester, mp 94°-96° C. A sample was recrystallized from the same solvents to provide the analytical specimen, mp 95.5°-96.5° C. Anal. Calcd for C25H26N4O4 : C, 67.25; H, 5.87; N, 12.55 Found: C, 67.16; H, 5.99; N, 12.66

reactant | 1-butyl-4-hydroxy-7-methoxy-2-naphthalenecarboxylic acid ethyl ester | 2.9 g | C(C)OC(=O)C1=C(C2=CC(=CC=C2C(=C1)O)OC)CCCC | C18H22O4
reactant | 5-chloro-1-phenyl-1H-tetrazole | 1.87 g | ClC1=NN=NN1C1=CC=CC=C1 | C7H5ClN4
reactant | potassium t-butoxide | 1.25 g | CC(C)([O-])C.[K+]
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 1-butyl-7-methoxy-4-[(1-phenyl-1H-tetrazole-5-yl)oxy]-2-naphthalenecarboxylic acid ethyl ester | 2.9 g | C(C)OC(=O)C1=C(C2=CC(=CC=C2C(=C1)OC1=NN=NN1C1=CC=CC=C1)OC)CCCC | C25H26N4O4
